datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](#[C:20][C:21]([C:22]([H:25])([H:26])[H:27])[H:24])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20]#[C:19][H:23])([C:22]([H:25])([H:26])[H:27])[H:24])[H:9],28.2002
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](=[C:19]([C:20]([C:21]([H:27])([H:28])[H:29])[C:22](=[C:23]([H:31])[H:32])[H:30])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:20]([C:19](=[C:18]([H:24])[H:25])[H:26])([C:21]([H:27])([H:28])[H:29])[C:22](=[C:23]([H:31])[H:32])[H:30])[H:11])[H:10],66.6511
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11]([S:12][H:17])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11]([C:10]([H:13])([H:14])[H:15])([S:12][H:17])[H:16],17.5728
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([H:22])[H:23])[H:21])[H:11])([H:9])[H:10],71.7556
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15],84.5168
[C:0]([C:1]([C:2]1[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]1([H:9])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])[H:10])([H:6])([H:7])[H:8],166.105
[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:10][H:11]>>[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:6])[H:7].[H:5][O:10][H:11],4.14216
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9](=[C:10]([C:11]([H:22])([H:23])[H:24])[c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:9]([C:8]([H:18])([H:19])[H:20])([C:10]([C:11]([H:22])([H:23])[H:24])[c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:21])([H:3])[H:4],6.4852
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([C:16]([C:17]([C:18]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])([H:4])[C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([C:16]([C:17]([C:18]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[C:11]([C:12]([H:18])([H:19])[H:20])[C:13]([H:21])([H:22])[H:23])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10]([C:9]([H:14])([H:15])[H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13]([H:21])([H:22])[H:23])[H:4],45.9403
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[H:9])[C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([H:17])([H:18])[H:19])[H:13])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:9])[H:13])[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:7])[H:8],199.577
[C:0](#[C:1][O:2][H:4])[H:3].[O:5]>>[C:0](#[C:1][O:2])[H:3].[H:4][O:5],7.9496
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([C:12]([S:13][H:19])([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:17])[H:5].[C:10](=[C:11]([C:12]([S:13][H:19])[H:18])[H:16])([H:14])[H:15],21.3384
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]=[O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[H:12][C:14]([C:13]([H:16])([H:17])[H:18])=[O:15],177.164
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[C:38]([H:39])([H:40])[H:41]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:17][C:38]([H:39])([H:40])[H:41],22.92832
